US04950763
Preparation of propiophenone
A mixture of 16 g/h of benzoic acid, 57 g/h of propionic acid and 14.5 g/h of water was evaporated in an evaporator and passed, together with 10 l/h of nitrogen, at 400° C., over 100 ml of a catalyst which contained 2.5% by weight of sodium oxide, the remainder being anatase. The reaction gases were then cooled and were collected in a receiver. From the discharged two-phase mixture, the organic phase was analyzed by gas chromatography. The conversion of both carboxylic acids was 100%. The selectivity with respect to propiophenone was 99%.

reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | propionic acid | C(CC)(=O)O | C3H6O2
solvent | water | O | H2O
product | propiophenone | C(CC)(=O)C1=CC=CC=C1 | C9H10O
